* D:\santi\facultad\3er año\2do cuatri\ASSD\GIT\ASSD-TP1\Resources\simulation\circuito.asc
XX1 Vcc -Vcc N005 N001 high_freq
XX2 Vcc -Vcc N005 N013 low_freq
XX3 Vcc -Vcc N005 N009 med_freq
V1 Vcc 0 15
V2 -Vcc 0 -15
V3 N005 0 SINE(0 5 240k 0 0 90)
XU1 N001 Clk 0 -Vcc N006 N003 Vcc LF398H
C1 N006 0 100p
V4 Clk 0 PULSE(0 5 1n 1n 1n 1.1u 1.67u)
XX4 Vcc -Vcc N002 N004 high_freq
XX5 Vcc -Vcc N011 N012 low_freq
XX6 Vcc -Vcc N007 N008 med_freq
S1 N003 N002 N010 0 MySwitch
R1 N002 0 1k
A1 Clk N014 N014 N014 N014 N010 N014 N014 BUF
V5 N014 0 0.5

* block symbol definitions
.subckt high_freq +V -V In Out
XX5 In +V -V N001 doblet_buffer params: R=910 C=100p Cx=1n2 Ra=12k Rb=3k3
XX6 N001 +V -V N002 doblet_buffer params: R=2k7 C=68p Cx=150p Ra=1k Rb=33k
XX7 N002 +V -V N003 doblet_buffer params: R=7k5 C=47p Cx=33p Ra=1k Rb=100k
XX8 N003 +V -V Out doblet_buffer params: R=1k C=390p Cx=180p Ra=3k Rb=22k
.ends high_freq

.subckt low_freq +V -V In Out
XX1 In +V -V N001 doblet params: R=100k C=82n Cx=1u Ra=12k Rb=3k3
XX2 N001 +V -V N002 doblet params: R=110k C=220n Cx=330n Ra=1k Rb=33k
XX3 N002 +V -V N003 doblet params: R=110k C=330n Cx=220n Ra=1k Rb=100k
XX4 N003 +V -V Out doblet params: R=110k C=390n Cx=180n Ra=3k Rb=22k
.ends low_freq

.subckt med_freq +V -V In Out
XX1 In +V -V N001 doblet params: R=110k C=100p Cx=1n2 Ra=12k Rb=3k3
XX2 N001 +V -V N002 doblet params: R=100k C=330p Cx=470p Ra=1k Rb=33k
XX3 N002 +V -V N003 doblet params: R=150k C=330p Cx=220p Ra=1k Rb=100k
XX4 N003 +V -V Out doblet params: R=180k C=330p Cx=150p Ra=3k Rb=22k
.ends med_freq

.subckt doblet_buffer In +V -V Out
XU1 N003 N005 +V -V Out ADTL082
R1 N003 N006 {R}
R2 N006 N001 {R}
R3 Out N002 {R/2}
C1 N002 N001 {C}
C2 N003 N002 {C}
C3 0 N003 {Cx}
C4 N006 Out {C*2}
R4 Out N005 {Ra}
R5 0 N005 {Rb}
R6 0 N004 {Rb}
R7 In N004 {Ra}
XU2 N004 N001 +V -V N001 ADTL082
.param R=100k C=82n Cx=1u Ra=12k Rb=3k3
.ends doblet_buffer

.subckt doblet In +V -V Out
XU1 N003 N004 +V -V Out ADTL082
R1 N003 N005 {R}
R2 N005 N001 {R}
R3 Out N002 {R/2}
C1 N002 N001 {C}
C2 N003 N002 {C}
C3 0 N003 {Cx}
C4 N005 Out {C*2}
R4 Out N004 {Ra}
R5 0 N004 {Rb}
R6 0 N001 {Rb}
R7 In N001 {Ra}
.param R=100k C=82n Cx=1u Ra=12k Rb=3k3
.ends doblet

.tran 0 40u 20u
.include LF398.sub
.model MySwitch SW(Ron=180 Roff=1Meg Vt=1)
.model SW SW()
.lib ADI.lib
.backanno
.end
